US04643849
With 10 ml of ethanol was mixed 1.6 g of 1-methylsulfinyl-1-methylthio-2-nitroethene, and 1.2 g of 2-chloroethylamine hydrochloride was then added thereto, after which 1.0 g of triethylamine was added dropwise at -20° C. in a nitrogen atmosphere. After they were subjected to reaction at the same temperature for 2 hours and then gradually heated to room temperature. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and 20 ml of ethyl acetate was added to the resulting residue, after which the resulting mixture was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure to obtain 1.0 g (yield 54.8%) of 1-(2-chloroethyl)amino-1-methylthio-2-nitroethene having a melting point of 115°-117° C.

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 1-methylsulfinyl-1-methylthio-2-nitroethene | 1.6 g | CS(=O)C(=C[N+](=O)[O-])SC | C4H7NO3S2
reactant | 2-chloroethylamine hydrochloride | 1.2 g | Cl.ClCCN
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 1-(2-chloroethyl)amino-1-methylthio-2-nitroethene | 1.0 g, yield 54.8% | ClCCNC(=C[N+](=O)[O-])SC | C5H9ClN2O2S
